US07414061B2
5-Methyl-4-[2-methyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-3-phenyl-isoxazole
As described for Example 57, 5-methyl-4-(2-methyl-1H-imidazol-4-yl)-3-phenyl-isoxazole (70 mg, 0.3 mmol) using 1-fluoro-4-nitrobenzene instead of 4-fluoroacetophenone was converted to the title compound (38 mg, 36%) which was obtained as an off-white solid. MS: m/e=361.4 [M+H]+.

reactant | 5-methyl-4-(2-methyl-1H-imidazol-4-yl)-3-phenyl-isoxazole | 0.3 mmol, 70 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C(NC1)C | C14H13N3O
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 5-Methyl-4-[2-methyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-3-phenyl-isoxazole | 38 mg, 36% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C(N(C1)C1=CC=C(C=C1)[N+](=O)[O-])C | C20H16N4O3
